US07253192B2
G] 1-[3-(1-Iodomethyl-cyclobutyl)-prop-1-ynyl]-4-trifluoromethoxy-benzene
To a solution of 0.78 g (2.15 mmol) methanesulfonic acid 1-[3-(4-trifluoromethoxy-phenyl)-prop-2-ynyl]-cyclobutylmethyl ester in 30 ml 2-butanone was added 0.65 g (4.30 mmol) NaI. The mixture was heated for 9 h at 90° C. The solvent was evaporated and the residue suspended in dichloromethane, ether was added and the suspension was filtrated. Evaporation of the organic phase gave 0.74 g of the title compound as dark brown oil.

reactant | methanesulfonic acid 1-[3-(4-trifluoromethoxy-phenyl)-prop-2-ynyl]-cyclobutylmethyl ester | 2.15 mmol, 0.78 g | FC(OC1=CC=C(C=C1)C#CCC1(CCC1)COS(=O)(=O)C)(F)F | C16H17F3O4S
reactant | NaI | 4.30 mmol, 0.65 g | [Na+].[I-]
solvent | 2-butanone | 30 ml | CC(CC)=O | C4H8O
product | 1-[3-(1-Iodomethyl-cyclobutyl)-prop-1-ynyl]-4-trifluoromethoxy-benzene | 0.74 g | ICC1(CCC1)CC#CC1=CC=C(C=C1)OC(F)(F)F | C15H14F3IO
